US04028344
Preparation of 1,1'-Ethylenebis[3-(1-t-butylazocyclohexyl)urea]
To 8.4 grams (0.0402 moles) of 1-t-butylazo-1-isocyanatocyclohexane stirred with a magnetic stirrer in a 50 ml erlenmeyer flask was added 1.57 grams (0.0201 moles) of ethylenediamine. Solids formed and the reaction mixture was diluted with pentane and stirred for 3 hours at room temperature. The pentane was stripped from the reaction mixture leaving a semi-solid. The semi-solid was slurried in cold pentane and filtered. The white solid filter cake was air dried and weighed 10.0 grams (75% crude yield). The product melted at 165°-167° C. with decomposition. The infrared spectrum of the product contained a strong carbonyl band at 1670 cm-1 and NH bands at 3300 and 3340 cm-1. The isocyanate band at 2225 cm-1 was absent.

reactant | 1-t-butylazo-1-isocyanatocyclohexane | 0.0402 moles, 8.4 grams | C(C)(C)(C)N=NC1(CCCCC1)N=C=O | C11H19N3O
reactant | ethylenediamine | 0.0201 moles, 1.57 grams | C(CN)N | C2H8N2
solvent | pentane | CCCCC | C5H12
product | 1,1'-Ethylenebis[3-(1-t-butylazocyclohexyl)urea] | C(CNC(=O)NC1(CCCCC1)N=NC(C)(C)C)NC(=O)NC1(CCCCC1)N=NC(C)(C)C | C24H46N8O2
